US04061663
1,4-Bis-O-sulfamyl-1,4-butanediol is prepared in the same manner as 1,2-bis-O-sulfamyl-1,2-ethanediol in Example 1 except that 1,4-butanediol (34.6 g., 0.385 mol.) is employed as the alkanediol.

reactant | 1,2-bis-O-sulfamyl-1,2-ethanediol | S(N)(=O)(=O)OCCOS(N)(=O)=O | C2H8N2O6S2
reactant | 1,4-butanediol | 0.385 mol, 34.6 g | C(CCCO)O | C4H10O2
product | 1,4-Bis-O-sulfamyl-1,4-butanediol | S(N)(=O)(=O)OCCCCOS(N)(=O)=O | C4H12N2O6S2
